US07683067B2
3-(4-Cyanopyridin-2-yl)-2-hydroxy-N-(2-methoxyethyl)-1H-indole-5-carboxamide
Starting material: methyl 3-(4-cyanopyridin-2-yl)-2-hydroxy-1H-indole-5-carboxylate and 2-methoxyethanamine. The product was purified on a silica gel column using chloroform/methanol/aqueous NH3, (150:10:1), as the eluent. The combined fractions were concentrated, stirred for 2 h in ethyl acetate (5 mL), and the formed precipitate was filtered off to give 0.012 g (8% yield) of the title compound as a dark-red powder: 1H NMR (DMSO-d6, 300 MHz) δ 14.67 (br s, 1H), 10.83 (s, 1H), 8.46 (br s, 1H), 8.16 (d, J=6.3 Hz, 1H), 7.98 (s, 1H), 7.81 (s, 1H), 7.56 (d, J=7.8 Hz, 1H), 6.95 (d, J=7.8 Hz, 1H), 6.86 (d, J=6.3 Hz, 1H), 3.48 (br s, 4H), 3.31 (s, 3H); MS (ES) m/z 337 (M++1).

reactant | methyl 3-(4-cyanopyridin-2-yl)-2-hydroxy-1H-indole-5-carboxylate | C(#N)C1=CC(=NC=C1)C1=C(NC2=CC=C(C=C12)C(=O)OC)O | C16H11N3O3
reactant | 2-methoxyethanamine | COCCN | C3H9NO
product | 3-(4-Cyanopyridin-2-yl)-2-hydroxy-N-(2-methoxyethyl)-1H-indole-5-carboxamide | 0.012 g, 8% yield | C(#N)C1=CC(=NC=C1)C1=C(NC2=CC=C(C=C12)C(=O)NCCOC)O | C18H16N4O3
